US07781454B2
Step 4: 4-(3-bromo-5-chlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole
3-(3-bromo-5-chlorophenoxy)-4-chlorobenzene-1,2-diamine (4.97 g, 14.3 mmol) in acetic acid (25 mL) was cooled to 15° C. under N2 and sodium nitrite (1.08 g, 15.7 mmol) in water (39.3 mL) was added dropwise. After 1.5 hours, the reaction was diluted with EtOAc (300 mL), and the organic phase was separated and washed with water (3×100 mL). The organic phase was then dried (MgSO4), filtered, concentrated to afford the title product. LRMS (M+1) 359.7.

reactant | 3-(3-bromo-5-chlorophenoxy)-4-chlorobenzene-1,2-diamine | 14.3 mmol, 4.97 g | BrC=1C=C(OC2=C(C(=CC=C2Cl)N)N)C=C(C1)Cl | C12H9BrCl2N2O
reactant | sodium nitrite | 15.7 mmol, 1.08 g | N(=O)[O-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | water | 39.3 mL | O | H2O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 4-(3-bromo-5-chlorophenoxy)-5-chloro-1H-1,2,3-benzotriazole | BrC=1C=C(OC2=C(C=CC=3NN=NC32)Cl)C=C(C1)Cl | C12H6BrCl2N3O
